US05686452
25 ml of 30% hydrogen bromide-acetic acid and 1.3 ml of dimethyl sulfoxide were added to 5.24 g of 2-(propylsulfonylaminomethyl)-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane suspended in 60 ml of acetic acid. The mixture was stirred at room temperature for 2 hours. 150 ml of isopropyl ether was added to the mixture, and crystals precipitated were collected by filtration, washed with water, dried and then recrystallized from methanol to obtain 4.82 g of 2-(propylsulfonylaminomethyl)-5-[pyridazin-3(2H)-on-6-yl]indane. This compound had the same physical properties as those of the compound obtained in Example 2.

reactant | hydrogen bromide acetic acid | 25 ml | Br.C(C)(=O)O
reactant | dimethyl sulfoxide | 1.3 ml | CS(=O)C | C2H6OS
reactant | 2-(propylsulfonylaminomethyl)-5-[4,5-dihydropyridazin-3(2H)-on-6-yl]indane | 5.24 g | C(CC)S(=O)(=O)NCC1CC2=CC=C(C=C2C1)C=1CCC(NN1)=O | C17H23N3O3S
reactant | isopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-(propylsulfonylaminomethyl)-5-[pyridazin-3(2H)-on-6-yl]indane | 4.82 g | C(CC)S(=O)(=O)NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C17H21N3O3S
